US08431563B2
A 100-mL round-bottomed flask was charged with N-(tert-butoxycarbonyl)-3-(tetrahydro-2H-pyran-4-yl)-L-alanine (3.11 g, 11.38 mmol), HATU (5.41 g, 14.22 mmol), glycine methyl ester hydrochloride (1.714 g, 13.65 mmol, Sigma-Aldrich, St. Louis, Mo.), and 10 mL of DMF. To this was added Hünig's base (4.37 mL, 25.03 mmol). After 30 min at room temperature, the mixture was diluted with water (100 mL) and extracted with EtOAc (2×200 mL). The layers were separated and the organic extracts were washed with water (2×100 mL) and brine (50 mL), dried (MgSO4), filtered and concentrated to give methyl N-(tert-butoxycarbonyl)-3-(tetrahydro-2H-pyran-4-yl)-L-alanylglycinate (3.00 g) as a yellow oil.

reactant | N-(tert-butoxycarbonyl)-3-(tetrahydro-2H-pyran-4-yl)-L-alanine | 11.38 mmol, 3.11 g | C(C)(C)(C)OC(=O)N[C@@H](CC1CCOCC1)C(=O)O | C13H23NO5
reactant | HATU | 14.22 mmol, 5.41 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | glycine methyl ester hydrochloride | 13.65 mmol, 1.714 g | Cl.COC(CN)=O
reactant | Hünig's base | 25.03 mmol, 4.37 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | water | 100 mL | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | methyl N-(tert-butoxycarbonyl)-3-(tetrahydro-2H-pyran-4-yl)-L-alanylglycinate | 3.00 g | C(C)(C)(C)OC(=O)N[C@@H](CC1CCOCC1)C(=O)NCC(=O)OC | C16H28N2O6
